US07026339B2
A solution of 4-(trifluoromethyl)benzenesulphonyl chloride (2.4 g, 9.84 mmol) in pyridine (40 mL) is cooled to 0° C. Salicylaldehyde (1.44 g, 11.8 mmol) is added and stirred overnight. Water and ethyl acetate are added to the reaction and shaken. The organic layer is washed with dilute HCl (0.1 N×2), H2O, bicarbonate solution, H2O and dried with sodium sulfate. The organic layer is evaporated to dryness to give a yellow solid, which is recrystallized from ether/hexane to give 2-formylphenyl 4-(trifluoromethyl)benzenesulfonate as a yellow powder (1.70 g, 52%).

reactant | 4-(trifluoromethyl)benzenesulphonyl chloride | 9.84 mmol, 2.4 g | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | Salicylaldehyde | 11.8 mmol, 1.44 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | 2-formylphenyl 4-(trifluoromethyl)benzenesulfonate | 1.70 g, 52% | FC(C1=CC=C(C=C1)S(=O)(=O)OC1=C(C=CC=C1)C=O)(F)F | C14H9F3O4S
